US06117881
1-(3,4-difluorophenyl)-2,3,4,9-tetrahydro-1H-β-carboline
This product was prepared using the same procedure as for Intermediate 1 with tryptamine (5.4 g, 33.5 mmol), 3,4-difluorobenzaldehyde (5.0 g, 1.05 equiv.) and TFA (5.2 mL, 2 equiv.) to give the title compound (7.8 g, 82%) as white crystals.

reactant | tryptamine | 33.5 mmol, 5.4 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | 3,4-difluorobenzaldehyde | 5.0 g, 1.05 equiv. | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | TFA | 5.2 mL, 2 equiv. | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(3,4-difluorophenyl)-2,3,4,9-tetrahydro-1H-β-carboline | 7.8 g, 82% | FC=1C=C(C=CC1F)C1NCCC=2C3=CC=CC=C3NC12 | C17H14F2N2
